### PR TITLE
phoa to SQCP

### PR DESCRIPTION
**Pull request by nimarasekh**
I didn't do what I was supposed to do, but I think I did something?
Please check and feel free to do it right and/or tell me how to do it right!

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Related to #202.

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 1]
```diff
@@ -213,7 +213,7 @@ phoas-principle = is-generalised-phoa (initial-Algebra I)
 SQCP : Type 𝓘
 SQCP = is-quasicoherent I[x]
 
-module SQCP (H : SQCP) where
+module _ (H : SQCP) where
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree:219]:
```suggestion
module _ (H : SQCP) where

```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 2]
```diff
@@ -234,5 +237,50 @@ module SQCP (H : SQCP) where
...
+module _ (H : phoas-principle) where
+  α-of : Obs (Spec I[x]) → Δ¹ → Δ¹
+  α-of x i = x (_≃_.fwd Δ¹≃SpecI[x] i)
+
+  mono-of : (x : Obs (Spec I[x])) → α-of x i0 ≤ α-of x i1
+  mono-of x =
+    ≤←∨
+      ( ∨-comm
+        ∙ sym (ap (_∨ (α-of x i0)) 1-top)
+        ∙ sym (H (α-of x) i1))
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree:255]:
```suggestion
      ∙ sym (ap (_∨ (α-of x i0)) 1-top)
      ∙ sym (H (α-of x) i1))
```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 3]
```diff
@@ -234,5 +237,50 @@ module SQCP (H : SQCP) where
...
+  qinv .fst = bwd
+
+  qinv .snd .fst a =
+    Δ²-ext
+      ( ap (_∨ (a .Δ².t)) 1-top
+        ∙ ∨-comm
+        ∙ ≤-max (a .Δ².mono)
+      , ap (_∨ (a .Δ².t)) (∧-comm ∙ 0-init)
+        ∙ ∨-comm
+        ∙ 0-bottom)
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]:
```suggestion
      ( ap (_∨ (a .Δ².t)) 1-top
      ∙ ∨-comm
      ∙ ≤-max (a .Δ².mono)
      , ap (_∨ (a .Δ².t)) (∧-comm ∙ 0-init)
      ∙ ∨-comm
      ∙ 0-bottom)
```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 4]
```diff
@@ -234,5 +237,50 @@ module SQCP (H : SQCP) where
...
+
+        εy : _≃_.fwd Δ¹≃SpecI[x] j ＝ y
+        εy = _≃_.ε Δ¹≃SpecI[x] y
+      in
+      sym (ap (λ z → z .fst .fst (bwd x)) εy)
+      ∙ sym (H (α-of x) j)
+      ∙ ap x εy
+
+  SQCP←phoas-principle : SQCP
+  SQCP←phoas-principle = is-equiv←qinv qinv
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree:245]:
```suggestion
module _ (H : phoas-principle) where
  
  SQCP←phoas-principle : SQCP
  SQCP←phoas-principle = is-equiv←qinv qinv
    where
    α-of : Obs (Spec I[x]) → Δ¹ → Δ¹
    α-of x i = x (_≃_.fwd Δ¹≃SpecI[x] i)
  
    mono-of : (x : Obs (Spec I[x])) → α-of x i0 ≤ α-of x i1
    mono-of x =
      ≤←∨
        ( ∨-comm
        ∙ sym (ap (_∨ (α-of x i0)) 1-top)
        ∙ sym (H (α-of x) i1))
  
    bwd : Obs (Spec I[x]) → Δ² I
    bwd x .Δ².s = α-of x i1
    bwd x .Δ².t = α-of x i0
    bwd x .Δ².mono = mono-of x
  
    qinv : quasi-inv (λ f x → x .fst .fst f)
    qinv .fst = bwd
    qinv .snd .fst a =
      Δ²-ext
        ( ap (_∨ (a .Δ².t)) 1-top
        ∙ ∨-comm
        ∙ ≤-max (a .Δ².mono)
        , ap (_∨ (a .Δ².t)) (∧-comm ∙ 0-init)
        ∙ ∨-comm
        ∙ 0-bottom)
    qinv .snd .snd x =
      funext→ λ y →
        let
          j : Δ¹
          j = is-equiv.qinv (_≃_.fwd-is-equiv Δ¹≃SpecI[x]) .fst y
  
          εy : _≃_.fwd Δ¹≃SpecI[x] j ＝ y
          εy = _≃_.ε Δ¹≃SpecI[x] y
        in sym (ap (λ z → z .fst .fst (bwd x)) εy)
         ∙ sym (H (α-of x) j)
         ∙ ap x εy
```
